US09227978B2
N-(4-Chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)acetamide
To a solution of N-(4-chloro-2-methoxy-5-(prop-1-en-2-yl)phenyl)acetamide (1.0 g, 4.17 mmol) in toluene (20 mL) at 0° C., CH2I2 (5.6 g, 20.86 mmol) and Et2Zn (41.7 mL, 41.7 mmol, 1.0 M in hexane) was added. The mixture was kept at 0° C. for 30 min, and then stirred at RT for 16 h. The reaction mixture was quenched with saturated NH4Cl solution and stirred for 15 min. The mixture was concentrated in vacuo to remove toluene and the resulting mixture was extracted with dichloromethane. The combined organic layer was washed with water and brine, dried over anhydrous Na2SO4, concentrated to afford the desired product (820 mg, 77% yield).

reactant | N-(4-chloro-2-methoxy-5-(prop-1-en-2-yl)phenyl)acetamide | 4.17 mmol, 1.0 g | ClC1=CC(=C(C=C1C(=C)C)NC(C)=O)OC | C12H14ClNO2
reactant | CH2I2 | 20.86 mmol, 5.6 g | C(I)I | CH2I2
reactant | Et2Zn | 41.7 mmol, 1.0 M, 41.7 mL | [Zn](CC)CC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)acetamide | 820 mg, 77% yield | ClC1=CC(=C(C=C1C1(CC1)C)NC(C)=O)OC | C13H16ClNO2
